US07868036B2
d) tert-butyl {1-hydroxymethyl-3-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-4-methylpentyl}carbamate
A solution of 2.44 g of ethyl 2-tert-butoxycarbonylamino-4-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-5-methylhexanoate in 35 ml of tetrahydrofuran is admixed at room temperature with 0.25 g of lithium borohydride in portions. After 23 hours, 35 ml of methanol are added dropwise and the resulting mixture is concentrated by evaporation at 40° C. The residue is once more admixed with 35 ml of methanol and again concentrated by evaporation to dryness. The residue is admixed with ice/1N HCl and extracted with dichloromethane (3×)—the combined organic phases are washed with water, dried over sodium sulphate and concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60F).

reactant | ethyl 2-tert-butoxycarbonylamino-4-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-5-methylhexanoate | 2.44 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)CC(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC | C28H41NO6
reactant | lithium borohydride | 0.25 g | [BH4-].[Li+]
reactant | methanol | 35 ml | CO | CH4O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | tert-butyl {1-hydroxymethyl-3-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-4-methylpentyl}carbamate | OCC(CC(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC)NC(OC(C)(C)C)=O | C26H39NO5
